US07176231B2
1,5-diacetyl-3-[(3,4-dimethoxy-phenyl)-methoxy-methylidene]-2-indolinone
4.0 g (10.5 mmol) 1,5-diacetyl-3-[(3,4-dimethoxy-phenyl)-hydroxy-methylidene]-2-indolinone (Ex. V) are suspended in 100 ml methylene chloride and combined with 3.1 g (21 mmol) trimethyloxonium tetrafluoroborate as well as 7.2 ml Hünig base (ethyldiisopropylamine) at ambient temperature. The solution is stirred for 3 h, then a further 1.55 g trimethyloxonium tetrafluoroborate and 3.5 ml Hünig base are added and the mixture is stirred overnight. After the same amount of reagent has been added again and the mixture has been stirred for a further 5 h, the reaction is washed three times with water, the organic phase is dried over sodium sulphate, filtered and concentrated by rotary evaporation. The residue is chromatographed through a silica gel column with methylene chloride/methanol 9:1, the corresponding fractions are combined and concentrated by rotary evaporation.

reactant | 1,5-diacetyl-3-[(3,4-dimethoxy-phenyl)-hydroxy-methylidene]-2-indolinone | 10.5 mmol, 4.0 g | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(O)C1=CC(=C(C=C1)OC)OC)=O | C21H19NO6
reactant | trimethyloxonium tetrafluoroborate | 21 mmol, 3.1 g | F[B-](F)(F)F.C[O+](C)C
reactant | Hünig base | 7.2 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | trimethyloxonium tetrafluoroborate | 1.55 g | F[B-](F)(F)F.C[O+](C)C
reactant | Hünig base | 3.5 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1,5-diacetyl-3-[(3,4-dimethoxy-phenyl)-methoxy-methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(OC)C1=CC(=C(C=C1)OC)OC)=O | C22H21NO6
